US04482555
1-phenyl-7-oxo-1H,7H-pyrazolo[1,5-a]pyrimidine-6-carboxylic acid (1.2 g) was reacted with thionyl chloride (0.8 ml) in dioxane (30 ml) at the reflux temperature for 3 hours, then the mixture was evaporated in vacuo to dryness. The residue was dissolved in dioxane (30 ml) and reacted with 2-(diethylamino)-ethanol (1.2 g) at room temperature for 24 hours. After dilution with water and alkalinization with Na2CO3 the precipitate was extracted with ethyl acetate: evaporation to dryness and crystallization from chloroformethanol gave 0.7 g of 1-phenyl-7-oxo-1H,7H-pyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 2-(diethylamino)-ethyl ester, m.p. 127°-130° C.

reactant | 1-phenyl-7-oxo-1H,7H-pyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 1.2 g | C1(=CC=CC=C1)N1C=CC=2N1C(C(=CN2)C(=O)O)=O | C13H9N3O3
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-phenyl-7-oxo-1H,7H-pyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 2-(diethylamino)-ethyl ester | 0.7 g | C1(=CC=CC=C1)N1C=CC=2N1C(C(=CN2)C(=O)OCCN(CC)CC)=O | C19H22N4O3
